US09302986B2
To a stirring solution of (Z)-tert-butyl 2-((4-(dimethylcarbarnoyl)-phenoxy)methyl)-3-fluoroallylcarbamate (520.0 mg, 1.48 mmol) in CH2Cl2 (8.0 mL) at room temperature was added trifluoroacetic acid (2.0 mL). The resulting mixture was stirred at room temperature for 30 min. All volatiles were removed in vacuo and the residue was co-evaporated with CH2Cl2 (2×20 mL) to remove trifluoroacetic acid. The resulting oil was taken up in ethyl acetate (3.0 mL) and then ethereal HCl (2.0 M in diethyl ether; 1.0 mL, 2.0 mmol) was added. The precipitate formed was isolated and dried under reduced pressure to afford (Z)-4-(2-(aminomethyl)-3-fluoroallyloxy)-N,N-dimethylbenzamide hydrochloride (301 mg, 71%) as a pale yellow solid; m.p.=135-137° C.; 1H-NMR (300 MHz; MeOD) δ ppm: 3.06 (3H, br s), 3.10 (3H, br s), 3.71 (2H, d, J 3.0 Hz), 4.88 (2H, dd, J 2.8, 0.8 Hz), 7.11 (2H, d, J 8.9 Hz), 7.13 (1H, d, J 80.8 Hz), 7.45 (2H, d, J 8.9 Hz).

reactant | (Z)-tert-butyl 2-((4-(dimethylcarbarnoyl)-phenoxy)methyl)-3-fluoroallylcarbamate | 1.48 mmol, 520.0 mg | CN(C(=O)C1=CC=C(OC\C(\CNC(OC(C)(C)C)=O)=C/F)C=C1)C | C18H25FN2O4
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 2.0 mmol, 2.0 M, 1.0 mL | Cl | ClH
solvent | CH2Cl2 | 8.0 mL | C(Cl)Cl | CH2Cl2
product | (Z)-4-(2-(aminomethyl)-3-fluoroallyloxy)-N,N-dimethylbenzamide hydrochloride | 301 mg, 71% | Cl.NC/C(/COC1=CC=C(C(=O)N(C)C)C=C1)=C/F | InChI=1S/C13H17FN2O2.ClH/c1-16(2)13(17)11-3-5-12(6-4-11)18-9-10(7-14)8-15;/h3-7H,8-9,15H2,1-2H3;1H/b10-7-;
